US07897597B2
tert-Butyl [4-(6-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate (17.62 g, 37.77 mmol) was dissolved in toluene (600 mL) with heating and added to a Parr vessel charged with 5% platinum on carbon (2.20 g). The vessel was placed under hydrogen pressure (30 psi, 2.1×105 Pa) for three hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure to provide 15.5 g of tert-butyl {4-[3-amino-6-(benzyloxy)quinolin-4-ylamino]butyl}carbamate as a brown solid.

reactant | tert-Butyl [4-(6-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate | 37.77 mmol, 17.62 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 2.20 g | [Pt] | Pt
product | tert-butyl {4-[3-amino-6-(benzyloxy)quinolin-4-ylamino]butyl}carbamate | 15.5 g | NC=1C=NC2=CC=C(C=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
